US07795267B2
N-[2-[Ethyl(2-propenyl)amino]ethyl]-tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide hydrochloride
To tetrahydro-3-oxo-1,1-diphenyl-N-[2-[(2-propenyl)amino]ethyl]-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide hydrochloride (0.13 g, 0.29 mmol) was added a 0.5 M aqueous sodium hydrogen carbonate solution (20 mL), and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in a 1,2-dichloroethane solution (5 mL). Acetaldehyde (25 mg, 0.57 mmol) and sodium triacetoxyborohydride (0.12 g, 0.57 mmol) were sequentially added thereto, and the mixture was stirred at room temperature for 8 hours. To the reaction solution was added ethyl acetate, and the resulting mixture was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue was added a 4M hydrogen chloride/ethyl acetate solution (1.0 mL), and the mixture was stirred at room temperature for 10 minutes. The reaction solution was concentrated under reduced pressure, and then the residue formed powder from 2-propanol-ethyl acetate to obtain the title compound (77 mg, yield 56%).

reactant | tetrahydro-3-oxo-1,1-diphenyl-N-[2-[(2-propenyl)amino]ethyl]-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide hydrochloride | 0.29 mmol, 0.13 g | Cl.O=C1OC(C2N1CCN(C2)C(=O)NCCNCC=C)(C2=CC=CC=C2)C2=CC=CC=C2
reactant | sodium hydrogen carbonate | 0.5 M, 20 mL | C(O)([O-])=O.[Na+]
reactant | Acetaldehyde | 0.57 mmol, 25 mg | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 0.57 mmol, 0.12 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-[Ethyl(2-propenyl)amino]ethyl]-tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide hydrochloride | 77 mg, yield 56% | Cl.C(C)N(CCNC(=O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O)CC=C | InChI=1S/C26H32N4O3.ClH/c1-3-16-28(4-2)17-15-27-24(31)29-18-19-30-23(20-29)26(33-25(30)32,21-11-7-5-8-12-21)22-13-9-6-10-14-22;/h3,5-14,23H,1,4,15-20H2,2H3,(H,27,31);1H
